US07893058B2
Compound 122: 3-Fluoro-4-{8-[4-(4-methylpiperazin-1-yl)phenylamino]imidazo[1,2-a]pyrazin-5-yl}benzamide
In the same way as described for Compound 127, step 4, using 3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl) benzamide (82 mg, 0.31 mmol), (5-bromoimidazo[1,2-a]pyrazin-8-yl)-(4-(4-methylpiperazin-1-yl)phenyl)amine (60 mg, 0.155 mmol) and Pd(PPh3)4 (45 mg, 0.038 mmol) in dioxane (0.68 mL), DMF (1.52 mL) and 1.5M Na2CO3 (0.83 mL). The residue is chromatographed on silica gel, eluting with DCM followed by 95:5 DCM:NH3 (7M in MeOH), and the fractions containing the desired product are combined and evaporated. The title compound is isolated as a solid. HPLC (254 nm): Rt 1.92 min (95.0%); m/z (APCI) 446 (M+H)+.

reactant | 3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl) benzamide | 0.31 mmol, 82 mg | FC=1C=C(C(=O)N)C=CC1B1OC(C(O1)(C)C)(C)C | C13H17BFNO3
reactant | (5-bromoimidazo[1,2-a]pyrazin-8-yl)-(4-(4-methylpiperazin-1-yl)phenyl)amine | 0.155 mmol, 60 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
solvent | dioxane | 0.68 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1.52 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 1.5M, 0.83 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.038 mmol, 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Fluoro-4-{8-[4-(4-methylpiperazin-1-yl)phenylamino]imidazo[1,2-a]pyrazin-5-yl}benzamide | FC=1C=C(C(=O)N)C=CC1C1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C24H24FN7O
